US08236826B2
Production of ethyl 3-[4-(4-aminophenoxy)phenyl]propionate
To a suspension of 5% palladium-carbon (0.50 g) in ethanol (50 mL) was added ethyl 3-[4-(4-nitrophenoxy)phenyl]propionate (5.00 g, 15.9 mmol), and the resulting solution was subjected to catalytic reduction at atmospheric pressure and at room temperature. Once the absorption of hydrogen had stopped, the catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure, to thereby yield 4.52 g of the title compound.

reactant | ethyl 3-[4-(4-nitrophenoxy)phenyl]propionate | 15.9 mmol, 5.00 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)CCC(=O)OCC)C=C1 | C17H17NO5
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.50 g | [C].[Pd]
product | ethyl 3-[4-(4-aminophenoxy)phenyl]propionate | NC1=CC=C(OC2=CC=C(C=C2)CCC(=O)OCC)C=C1 | C17H19NO3
